US08106064B2
4-Bromomethyl-2-fluoro-pyridine (35):
The mixture of 2-Fluoro-4-methyl-pyridine (10 g, 90 mmol), N-bromosuccinimide (19.2 g, 108 mmol), and benzoyl peroxide (2.18 g, 9 mmol) in carbon tetrachloride (100 ml) was refluxed for 5 hr under a light of 500 W tungsten light. After cooling to room temperature, the mixture was filtered and the filtrate was evaporated in vacuo to give a brown oil, which was purified by silica gel column chromatography (eluent, ether:hexane (1:9)) to afford 4.85 g (28%) of a pale brown oil; 1H NMR (200 MHz, CDCl3) δ: 4.40 (2H, s), 6.95 (1H, m), 7.19 (1H, m), 8.18 (1H, d, J=5.2 Hz); m/z (EI): 189 (M+), 191 (M+2+).

reactant | 2-Fluoro-4-methyl-pyridine | 90 mmol, 10 g | FC1=NC=CC(=C1)C | C6H6FN
reactant | N-bromosuccinimide | 108 mmol, 19.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 9 mmol, 2.18 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | tungsten | [W] | W
product | 4-Bromomethyl-2-fluoro-pyridine | 4.85 g, 28% | BrCC1=CC(=NC=C1)F | C6H5BrFN
